US08975254B2
(S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-oxazole-4-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (600 mg, 2.301 mmol) and 2-acetyloxazole-4-carboxylic acid (428 mg, 2.76 mmol). The product was purified by Flash-chromatography. Yield 11.6%. 1H-NMR (400 MHz; CDCl3): δ 1.26 (d, 3H), 2.68 (s, 3H), 4.26-4.33 (m, 1H), 4.40-4.47 (m, 1H), 4.55-4.68 (m, 1H), 6.63 (d, 1H), 7.49 (d, 1H), 7.67 (d, 1H), 7.72 (d, 1H), 7.88 (dd, 1H), 7.93 (d, 1H), 8.31 (s, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 2.301 mmol, 600 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 2-acetyloxazole-4-carboxylic acid | 2.76 mmol, 428 mg | C(C)(=O)C=1OC=C(N1)C(=O)O | C6H5NO4
product | (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-oxazole-4-carboxamide | Yield 11.6% | C(C)(=O)C=1OC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H16ClN5O3
